US07550505B2
2′-mercaptobiphenyl-3-ol
2′-(2,4,6-trimethoxybenzylthio)biphenyl-3-ol (0.948 g, 2.48 mmol) was treated with TFA:triethylsilane:DCM (8 ml:3 ml:80 ml). The solution was stirred 30 min. before 40 ml water was added and the mixture was extracted with DCM (2×80 ml). The organic was washed with water, brine, dried over magnesium sulfate and concentrated. The residue was purified by silica flash chromatography (hexane:ethyl acetate 80:20) to afford 0.335 g product (1.66 mmol, 67% yield).

reactant | 2′-(2,4,6-trimethoxybenzylthio)biphenyl-3-ol | 2.48 mmol, 0.948 g | COC1=C(CSC2=C(C=CC=C2)C2=CC(=CC=C2)O)C(=CC(=C1)OC)OC | C22H22O4S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylsilane | C(C)[SiH](CC)CC | C6H16Si
reactant | DCM | 8 ml | C(Cl)Cl | CH2Cl2
solvent | water | 40 ml | O | H2O
product | 2′-mercaptobiphenyl-3-ol | 1.66 mmol, 0.335 g, 67% yield | SC1=C(C=CC=C1)C1=CC(=CC=C1)O | C12H10OS
